US06235742B1
(1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)(phenyl)methyl acetate
2-chloro-2-phenylacetyl chloride (3.47 ml, 0.022 mol) was added dropwise to a solution of 4-amino-3-propyl-1-methyl-5-pyrazolecarboxamide (4 g, 0.022 mol) in acetic acid (30 ml) and the reaction stirred at reflux under a nitrogen atmosphere for 20 hours.

reactant | 2-chloro-2-phenylacetyl chloride | 0.022 mol, 3.47 ml | ClC(C(=O)Cl)C1=CC=CC=C1 | C8H6Cl2O
reactant | 4-amino-3-propyl-1-methyl-5-pyrazolecarboxamide | 0.022 mol, 4 g | NC=1C(=NN(C1C(=O)N)C)CCC | C8H14N4O
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | (1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)(phenyl)methyl acetate | C(C)(=O)OC(C1=CC=CC=C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O | C18H20N4O3
